US08389717B2
[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-methoxy-6-(3,4,5-trifluoro-phenoxy)-[1,3,5]triazin-2-yl]-amine
This compound was prepared from (4-chloro-6-methoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine and 3,4,5-trifluorophenol in analogy to example 3. Chromatography on silica gel using ethyl acetate as an eluent gave the title compound as a colorless solid in 25% yield.

reactant | (4-chloro-6-methoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC1=NC(=NC(=N1)OC)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C15H15ClN6O2
reactant | 3,4,5-trifluorophenol | FC=1C=C(C=C(C1F)F)O | C6H3F3O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-methoxy-6-(3,4,5-trifluoro-phenoxy)-[1,3,5]triazin-2-yl]-amine | 25% yield | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC(=NC(=N1)OC)OC1=CC(=C(C(=C1)F)F)F | C21H17F3N6O3
